### PR TITLE
feat(Combinatorics/SimpleGraph): Add Subgraph.inclusion_edge_apply_coe and inclusion_edgeSet_apply_coe

### PR DESCRIPTION
**Pull request by xcloudyunx**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 1]
```diff
@@ -707,6 +707,18 @@ def inclusion {x y : Subgraph G} (h : x ≤ y) : x.coe →g y.coe where
   toFun v := ⟨↑v, And.left h v.property⟩
   map_rel' hvw := h.2 hvw
 
+lemma inclusion_edge_apply_coe {x y : Subgraph G} (h : x ≤ y) (e : Sym2 x.verts) :
+    Sym2.map Subtype.val (Sym2.map (inclusion h) e) = Sym2.map Subtype.val e := by
+  cases e with | _ a b =>
+  simp
+
+lemma inclusion_edgeSet_apply_coe {x y : Subgraph G} (h : x ≤ y) (s : Set (Sym2 x.verts)) :
+    Sym2.map Subtype.val '' (Sym2.map (Subgraph.inclusion h) '' s) = Sym2.map Subtype.val '' s := by
```
Comment (pimotte) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:716]:
```suggestion
    Sym2.map Subtype.val '' (Sym2.map (inclusion h) '' s) = Sym2.map Subtype.val '' s := by
```

**Review by pimotte — COMMENTED** [review]
Looks good to me:) Maybe these should be simp lemma's?

**Comment by xcloudyunx** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27226

**Comment by bryangingechen** [comment]
Closing since this has been migrated.
